### PR TITLE
[Merged by Bors] - feat(Data/Set/Lattice): iUnion + insertion 

### PR DESCRIPTION
**Pull request by apnelson1**
Another distributivity lemma with iUnion and insertions, needed for #21172. 

This could maybe be `@[simp]`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Lattice.lean [hunk 1]
```diff
@@ -1125,10 +1125,14 @@ theorem iUnion_subset_iUnion_const {s : Set α} (h : ι → ι₂) : ⋃ _ : ι,
   iSup_const_mono (α := Set α) h
 
 @[simp]
-theorem iUnion_singleton_eq_range {α β : Type*} (f : α → β) : ⋃ x : α, {f x} = range f := by
+theorem iUnion_singleton_eq_range (f : α → β) : ⋃ x : α, {f x} = range f := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:1128]:
```suggestion
theorem iUnion_singleton_eq_range (f : ι → β) : ⋃ x : ι, {f x} = range f := by
```

File: Mathlib/Data/Set/Lattice.lean [hunk 2]
```diff
@@ -1125,10 +1125,14 @@ theorem iUnion_subset_iUnion_const {s : Set α} (h : ι → ι₂) : ⋃ _ : ι,
...
   ext x
   simp [@eq_comm _ x]
 
+theorem iUnion_insert_eq_range_union_iUnion {ι : Type*} (x : ι → β) (t : ι → Set β) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Lattice.lean:1132]:
```suggestion
theorem iUnion_insert_eq_range_union_iUnion (x : ι → β) (t : ι → Set β) :
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks. Let's generalize this to index by `Sort*`

**Comment by apnelson1** [comment]
> > Thanks. Let's generalize this to index by `Sort*`
> 
> I originally had it this way, and it broke a couple of things far downstream. I guess i will fix them, rather than just change it back to type.

This should now (hopefully) be fixed by adding `[-iUnion_singleton_eq_range]` to three `simp` calls where the lemma hadn't previously been firing.

**Comment by apnelson1** [comment]
Actually, it does seem like this causes some `simp` regressions. In some cases there are just missing confluence lemmas, where something exists for `iUnion` but not `range`, but in others (such as in `Topology.Instances.Real.Lemmas`) I'm not quite sure what the fix is. 

Could we leave this upgrade for another PR?

**Comment by Ruben-VandeVelde** [comment]
maintainer merge

I suppose

**Comment by b-mehta** [comment]
Thanks!

bors merge
